US08349860B2
To a suspension of ethyl 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylate (186 mg, 0.491 mmol) in THF (4 mL), aq. 1N LiOH (1.00 mL, 1.00 mmol) was added. The suspension became clear with stirring. The mixture was then stirred at room temperature overnight. Upon acidification of the mixture with 1N HCl, white solids precipitated out, which were collected, and dried on vacuum to give 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylic acid (158 mg). MS 351.2 and 353.3 (M+H, Cl pattern)

reactant | ethyl 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylate | 0.491 mmol, 186 mg | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C=1N=CSC1)F)C(=O)OCC | C16H12ClFN4O2S
reactant | LiOH | 1.00 mmol, 1N, 1.00 mL | [Li+].[OH-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylic acid | 158 mg | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C=1N=CSC1)F)C(=O)O | C14H8ClFN4O2S
